US08685959B2
Synthesis of (4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-benzo[d]imidazol-6-yl)-5,6-dihydropyridin-1(2H)-yl)((R)-piperidin-2-yl)methanone (see FIG. 7)
To a stirred solution of the crude (R)-1-(1-(2,4-dichlorophenyl)ethyl)-6-(1,2,3,6-tetrahydropyridin-4-yl)-1H-benzo[d]imidazole (1.2 g, 3.1 mmol) and (R)-1-(t-butoxycarbonyl)piperidine-2-carboxylic acid (0.71 g, 3.1 mmol) in N,N-dimethylformamide (DMF, 10 mL) at 0° C. under nitrogen was added N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (HATU, 1.4 g, 3.7 mmol) and diisoproylethylamine (iPr2NEt, 0.80 g, 6.2 mmol). The reaction mixture was stirred at room temperature for 1 h, and diluted with ethyl acetate. The mixture was washed with saturated aqueous sodium bicarbonate and brine. The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 10-100% ethyl acetate in hexanes) to afford the desired product (1.5 g, 2.6 mmol, 85%).

reactant | (R)-1-(1-(2,4-dichlorophenyl)ethyl)-6-(1,2,3,6-tetrahydropyridin-4-yl)-1H-benzo[d]imidazole | 3.1 mmol, 1.2 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1C=NC2=C1C=C(C=C2)C=2CCNCC2 | C20H19Cl2N3
reactant | (R)-1-(t-butoxycarbonyl)piperidine-2-carboxylic acid | 3.1 mmol, 0.71 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(=O)O | C11H19NO4
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 3.7 mmol, 1.4 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | diisoproylethylamine | 6.2 mmol, 0.80 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-benzo[d]imidazol-6-yl)-5,6-dihydropyridin-1(2H)-yl)((R)-piperidin-2-yl)methanone | 2.6 mmol, 1.5 g, 85% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1C=NC2=C1C=C(C=C2)C2=CCN(CC2)C(=O)[C@@H]2NCCCC2 | C26H28Cl2N4O
